US06685995B1
Benzotriazole in an amount of 45.0 g (378 mmol) was dissolved in 400 ml of tetrahydrofuran (hereinafter abbreviated to THF), and 120 g (571 mmol) of trifluoroacetic acid anhydride was added dropwise thereto while being stirred at room temperature. After the solution was stirred at the same temperature for 30 minutes, THF and unreacted trifluoroacetic acid anhydride were distilled off under a reduced pressure to give 80 g (372 mmol) of trifluoroacetylbenzotriazole.

reactant | Benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | trifluoroacetic acid anhydride | 571 mmol, 120 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | trifluoroacetylbenzotriazole | 372 mmol, 80 g | FC(C(=O)C1=CC=CC=2NN=NC21)(F)F | C8H4F3N3O
